US08431575B2
A suspension of 5-(4-benzyloxy-phenyl)-6-butyl-2H-pyridazin-3-one (5.4 g, 14.73 mmol) in POCl3 (8 mL) was stirred at 70° C. for 2 h. The reaction mixture was concentrated under reduced pressure, and to the residue was added ice (50 g). The mixture was stirred for 1 h. This was extracted with DCM (3×50 mL), the combined organic layer was dried, filtered and concentrated under reduced pressure. The resultant residue was purified by flash silica gel column chromatography eluting with in 10% ethyl acetate in hexanes to provide 4-(4-benzyloxy-phenyl)-3-butyl-6-chloro-pyridazine.

reactant | 5-(4-benzyloxy-phenyl)-6-butyl-2H-pyridazin-3-one | 14.73 mmol, 5.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(NN=C1CCCC)=O | C21H22N2O2
reactant | POCl3 | 8 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(4-benzyloxy-phenyl)-3-butyl-6-chloro-pyridazine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)Cl)CCCC | C21H21ClN2O
